US04780469
Synthesis of 8-(p-octyloxybenzoyl)amino-2-(5-tetrazolyl)-1,4-benzodioxane-7-carboxylic acid
8-(p-octyloxybenzoyl)amino-2-(5-tetrazolyl)-1,4-benzodioxane-7-carboxylic acid methyl ester (332 mg; synthesized in example 2 (107) was dissolved in methanol (1.5 ml). To the solution, a 1N aqueous solution of sodium hydroxide (1.36 ml), and the mixture was stirred for 50 min at room temperature and for 2 hrs at 40° C. After cooling, 1N hydrochloric acid (2 ml) was added to the solution. The mixture was extracted with ethyl acetate. The extract was dried and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=9:1) to give the title compound (263 mg) having the following physical data:

reactant | 8-(p-octyloxybenzoyl)amino-2-(5-tetrazolyl)-1,4-benzodioxane-7-carboxylic acid methyl ester | COC(=O)C=1C=CC2=C(OC(CO2)C2=NN=NN2)C1NC(C1=CC=C(C=C1)OCCCCCCCC)=O | C26H31N5O6
reactant | sodium hydroxide | 1.36 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 2 ml | Cl | ClH
solvent | methanol | 1.5 ml | CO | CH4O
product | 8-(p-octyloxybenzoyl)amino-2-(5-tetrazolyl)-1,4-benzodioxane-7-carboxylic acid | 263 mg | C(CCCCCCC)OC1=CC=C(C(=O)NC2=C(C=CC3=C2OC(CO3)C3=NN=NN3)C(=O)O)C=C1 | C25H29N5O6
